US07989454B2
To a solution of 4-(3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (400 mg) in a mixture of acetone and DMF (2:1, 3 mL) were added potassium carbonate (10 eq.) and 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (1.1 eq). The resulting mixture was stirred at 75° C. for 2 days. Then the insoluble material was filtered out and the filtrate was diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate, concentrated and purified on a silica gel column using ethyl acetate and hexanes to yield 4-(3-benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (556 mg). The total amount of material from the previous step was dissolved in EtOH (3 mL), followed by addition of 10 M NaOH solution (10 eq.). The resulting reaction mixture was stirred at room temperature for 3 h. Then it was neutralized with 3 N HCl and extracted into ethyl acetate. The organic extract was washed with water and brine and dried over anhydrous sodium sulfate. The crude material was concentrated under reduced pressure and redissolved in a mixture of TFA and dichloromethane (1:1, 2 mL) and stirred at room temperature for 2 h. The solvents were removed under reduced pressure and the crude material was purified on reverse-phase HPLC to yield the title compound.

reactant | 4-(3-benzo[1,3]dioxol-5-yl-5-hydroxy-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(C1=CC(=CC(=C1)O)C1=CC2=C(OCO2)C=C1)=O | C24H28N2O6
reactant | potassium carbonate | 10 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[3-(6-bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 1.1 eq | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(3-benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 556 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC2=C(OCO2)C=C1)=O | C47H62N2O11
